US04348399
A solution of 0.05 mole of 4-(hexadecylamino)hydrocinnamic acid and 0.05 mole of 1,1'-carbonyldiimidazole in 50 ml. of tetrahydrofuran is treated with 0.052 mole of phenol and a trace of sodium hydride. The reaction is heated to reflux for 3 hours, then cooled, filtered and evaporated in vacuo providing phenyl 4-(hexadecylamino)hydrocinnamate.

reactant | 4-(hexadecylamino)hydrocinnamic acid | 0.05 mole | C(CCCCCCCCCCCCCCC)NC1=CC=C(CCC(=O)O)C=C1 | C25H43NO2
reactant | 1,1'-carbonyldiimidazole | 0.05 mole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | phenol | 0.052 mole | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydride | [H-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | phenyl 4-(hexadecylamino)hydrocinnamate | C(CCCCCCCCCCCCCCC)NC1=CC=C(CCC(=O)OC2=CC=CC=C2)C=C1 | C31H47NO2
